US06399601B1
5, 2-Fluoro-4H-thieno[3,2-b]pyrrole-5carboxylic Acid Ethyl Ester
5-Fluoro-thiophene-2-carbaldehyde (see, for example, Schuetz, R. D. and Nilles, G. P., J. Org. Chem., 36: 2188-90 (1971)) was annulated according to Procedure H (aldehyde and azido-acetic acid ethyl ester added as ethanol solution (0.6 M of ester); acrylate organic phase washed with saturated aqueous NaCl prior to drying; acrylate not purified).

reactant | 5-Fluoro-thiophene-2-carbaldehyde | FC1=CC=C(S1)C=O | C5H3FOS
reactant | azido-acetic acid ethyl ester | C(C)OC(CN=[N+]=[N-])=O | C4H7N3O2
solvent | ethanol | 0.6 M | C(C)O | C2H6O
product | 2-Fluoro-4H-thieno[3,2-b]pyrrole-5carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=CC2=C(N1)C=C(S2)F | C9H8FNO2S
